US05268377
Methyl 2-n-butyl-3-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]-pyridine-6-carboxylate and ethoxycarbonylacetyl chloride are treated in the same manner as in Example 1-(2) to give methyl 2-n-butyl-5-ethoxycarbonylacetyl-3-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-6-carboxylate.

reactant | Methyl 2-n-butyl-3-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]-pyridine-6-carboxylate | C(CCC)C1=NC2=C(CNC(C2)C(=O)OC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H43N7O2
reactant | ethoxycarbonylacetyl chloride | C(C)OC(=O)CC(=O)Cl | C5H7ClO3
product | methyl 2-n-butyl-5-ethoxycarbonylacetyl-3-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-6-carboxylate | C(CCC)C1=NC2=C(CN(C(C2)C(=O)OC)C(CC(=O)OCC)=O)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C50H49N7O5
